US07491821B2
To a clear solution of D,L-methionine (10 g, 67.02 mmol) and NaOH (4.0 g, 100.53 mmol) in acetone (100 ml)/ H2O (100 ml) was added 2-fluorobenzoyl chloride dropwise with stirring between each addition. Basicity was maintained by adding 2N NaOH when necessary. After addition was completed, the reaction mixture was acidified to pH 2 with 6N HCl and extracted into EtOAc. The organic layer was dried with Na2SO4, filtered, and concentrated to give provide 2-(2-fluorobenzoylamino)-4-methylsulfanyl-butyric acid (intermediate XIIa, 13.6 g) as an oil.

reactant | D,L-methionine | 67.02 mmol, 10 g | NC(CCSC)C(=O)O | C5H11NO2S
reactant | NaOH | 100.53 mmol, 4.0 g | [OH-].[Na+]
reactant | 2-fluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | NaOH | 2N | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | H2O | 100 ml | O | H2O
product | 2-(2-fluorobenzoylamino)-4-methylsulfanyl-butyric acid | 13.6 g | FC1=C(C(=O)NC(C(=O)O)CCSC)C=CC=C1 | C12H14FNO3S
